US08241575B2
Preparation of Hex-5-enyl Methacrylate
5-Hexen-1-ol (5.0 g; 50.0 mmol) and triethylamine (15.0 g, 150 mmol) were combined in a round-bottom flask and dissolved in methylene chloride (50 mL). After cooling in an ice bath, methacryloyl chloride (5.2 g, 50.0 mmol) was slowly added to the solution by syringe. The solution was warmed to room temperature and allowed to stir overnight. Water was added, and the organic phase was washed with sodium bicarbonate solution followed by brine solution. The organic layer was dried over magnesium sulfate and filtered to give a clear solution. After solvent removal, the crude product was purified by passing it through a silica column (1:40 ethyl acetate:hexanes). The product was obtained as a clear liquid, which was stored at 0° C.

reactant | 5-Hexen-1-ol | 50.0 mmol, 5.0 g | C(CCCC=C)O | C6H12O
reactant | triethylamine | 150 mmol, 15.0 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 50.0 mmol, 5.2 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | Water | O | H2O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | Hex-5-enyl Methacrylate | C(C(=C)C)(=O)OCCCCC=C | C10H16O2
